US04101654
To pyridine N-oxide (19 g; 0.2 mole) was added dimethyl sulfate (25.2 g; 0.2 mole) during 30 minutes. The reaction was completed by heating at 100° C. for two hours yielding N-methoxy pyridinium methosulfate. Diethyl sodio phosphonate was prepared by dissolving sodium (4.6 g; 0.2 mole) in a solution of diethyl phosphite (27.6 g; 0.2 mole) in dioxane (100 ml) in an argon atmosphere. The N-methoxy pyridinium quaternary was suspended in toluene by stirring while the diethyl sodio phosphonate solution was added. The reaction flask was cooled to maintain the temperature at 25° - 35° C. After stirring for 11/2 hours, water (100 ml) was added and the organic product isolated by chloroform extraction. Evaporation of the chloroform extract and distillation yielded diethyl pyridine-2-phosphonate with a small amount of diethyl pyridine 4-phosphonate. Yield -- 14g (33%) bp 140° - 8° C./1.5 mm. The presence of the two isomers was established by infrared absorption; 2-isomer 13.3 μ (strong, 4 adjacent hydrogen) and 4 isomer, 12.3 μ (weak, 2 adjacent hydrogen).

reactant | sodium | 0.2 mole, 4.6 g | [Na] | Na
reactant | diethyl phosphite | 0.2 mole, 27.6 g | P(OCC)(OCC)[O-]
reactant | N-methoxy pyridinium | CO[N+]1=CC=CC=C1
reactant | water | 100 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | diethyl pyridine-2-phosphonate | N1=C(C=CC=C1)P(OCC)(=O)OCC | C9H14NO3P
